US05252601
Step b: 2-Carboxy-2-(t-butyl)thiomethyl-1,2,3,4-tetrahydronaphthalene
Dissolve 2-carbomethoxy-2-(t-butyl)thiomethyl-1,2,3,4-tetrahydronaphthalene (2.5 g, 8.6 mmol) in methanol (50 mL) and add 1N lithium hydroxide (15 mL, 15 mmol). Stir at reflux for 12 hours and at room temperature for an additional 12 hours. Dilute with water (10 mL) and concentrate in vacuo to 20 mL. Wash with ethyl ether and acidify the aqueous phase with 2N hydrochloric acid. Extract with methylene chloride (2×25 mL), dry (MgSO4) and evaporate the solvent in vacuo to give the title compound as a crystalline solid (2.37 g, 99%).

reactant | 2-carbomethoxy-2-(t-butyl)thiomethyl-1,2,3,4-tetrahydronaphthalene | 8.6 mmol, 2.5 g | C(=O)(OC)C1(CC2=CC=CC=C2CC1)CSC(C)(C)C | C17H24O2S
reactant | lithium hydroxide | 15 mmol, 1N, 15 mL | [OH-].[Li+]
solvent | methanol | 50 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 2-Carboxy-2-(t-butyl)thiomethyl-1,2,3,4-tetrahydronaphthalene | 2.37 g, 99% | C(=O)(O)C1(CC2=CC=CC=C2CC1)CSC(C)(C)C | C16H22O2S
